US08791108B2
To a solution of ethyl 6-((S)-1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(8-fluoro-5-methylchroman-6-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate (4 g, 6.07 mmol) in THF (40 mL) was added 1N NaOH (6.07 mL, 6.07 mmol) and the resulting mixture was stirred at rt for 16 h. At this point LCMS indicated about 70% conversion, so additional NaOH (2.5 mL, 2.5 mmol) was added and the mixture was stirred for another 2 h. At this point LCMS indicated progression of reaction (approx 90% coversion) along with small amount of di-acid. Water (20 mL) was then added and the mixture was acidified with 1N HCl (10 mL) and extracted with ether (2×100 mL), washed with brine (50 mL), dried (Na2SO4), filtered and concentrated to afford 6-((S)-1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(8-fluoro-5-methylchroman-6-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylic acid (2.7 g, 5.41 mmol, 89% yield) as off-white solid. 1H NMR (500 MHz, CDCl3) δ: 7.21 (s, 1H), 6.85 (d, J=10.7 Hz, 1H), 5.00 (s, 1H), 4.36 (t, J=4.4 Hz, 2H), 4.19-4.12 (m, 2H), 2.81 (s, 3H), 2.80-2.74 (m, 2H), 2.20 (dd, J=6.3, 4.1 Hz, 2H), 1.83 (s, 3H), 1.24-1.20 (m, 3H), 1.18 (s, 9H). LCMS (M+H)=500.4.

reactant | ethyl 6-((S)-1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(8-fluoro-5-methylchroman-6-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate | 6.07 mmol, 4 g | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC=2N(C1C=1C(=C3CCCOC3=C(C1)F)C)N=C(C2)C(=O)OCC)C | C28H34FN3O6
reactant | NaOH | 6.07 mmol, 1N, 6.07 mL | [OH-].[Na+]
reactant | NaOH | 2.5 mmol, 2.5 mL | [OH-].[Na+]
reactant | Water | 20 mL | O | H2O
reactant | HCl | 1N, 10 mL | Cl | ClH
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 6-((S)-1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(8-fluoro-5-methylchroman-6-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylic acid | 5.41 mmol, 2.7 g, 89% yield | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC=2N(C1C=1C(=C3CCCOC3=C(C1)F)C)N=C(C2)C(=O)O)C | C26H30FN3O6
